US06565829B2
Step 2: Preparation of tert-butyl 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate
Di-tert-butyl dicarbonate (1.63 g, 7.48 mmol) was added to a solution of 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine (2.01 g, 6.70 mmol) and triethylamine (0.81 g, 7.98 mmol) in CH2Cl2 (30.0 mL). The reaction was stirred at room temperature for 5 hours then washed with 2N HCl, saturated NaHCO3, brine, dried over MgSO4, and concentrated in vacuo to give a brown foam. The foam was subjected to column chromatography (silica gel, 30% EtOAc/hexane) to give 0.58 g (22%) of a brown solid as the title compound: mp 174.1-176.3° C. (EtOAc/hexane); 1H NMR (400 MHz, DMSO-d6) δ 11.43 (s, 1H), 8.22 (s, 1H), 7.93 (d, J=7.0 Hz, 2H), 7.64-7.55 (m, 4H), 7.52 (d, J=8.6 Hz, 1H), 7.37 (s, 1H), 6.93 (br, 1H), 3.22-3.18 (m, 2H), 2.87-2.84 (m, 2H), 1.38 (s, 9H); 13C NMR (100 MHz, DMSO-d6) δ 155.5, 142.8, 138.1, 132.8, 130.4, 129.4, 126.7, 125.7, 119.6, 119.1, 113.9, 112.3, 77.4, 40.6, 28.2, 25.0; IR (diffuse reflectance) 3303, 1690, 1493, 1303, 1294, 1151, 1133, 1109, 812, 744, 715, 704, 691, 658, 639 cm−1; HRMS (FAB) calcd for C21H24N2O4S+H 400.1457, found 400.1457. Anal. Calcd for C21H24N2O4S: C, 62.98; H, 6.04; N, 6.99. Found: C, 62.64; H, 6.12; N, 6.82.

reactant | Di-tert-butyl dicarbonate | 7.48 mmol, 1.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethanamine | 6.70 mmol, 2.01 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C(=CNC2=CC1)CCN | C16H16N2O2S
reactant | triethylamine | 7.98 mmol, 0.81 g | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 30.0 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-[5-(phenylsulfonyl)-1H-indol-3-yl]ethylcarbamate | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2C(=CNC2=CC1)CCNC(OC(C)(C)C)=O | C21H24N2O4S
